US05221671
2-(2-Aminopropionylamino)-3-(2-chlorobenzoyl)-6-(3-butynyloxycarbonyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine
1.16 g of 2-(2-bromopropionylamino)-3-(2-chlorobenzoyl)-6-(3-butynyloxycarbonyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine was dissolved in 36 ml of ethyl acetate, into which ammonia gas was introduced under cooling conditions, followed by heating in a sealed tube at 100° C. After completion of the reaction, the mixture was cooled, to which 50 ml of ethyl acetate was added. The mixture was washed with 1N hydrochloric acid, after which the aqueous phase was neutralized with a sodium carbonate aqueous solution and extracted with chloroform. The resultant organic phase was dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced conditions and the resultant residue was purified by the use of silica gel column chromatography (elution solvent: dichloromethane), thereby obtaining 0.36 g of the intended compound.

reactant | 2-(2-bromopropionylamino)-3-(2-chlorobenzoyl)-6-(3-butynyloxycarbonyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine | 1.16 g | BrC(C(=O)NC1=C(C2=C(CN(CC2)C(=O)OCCC#C)S1)C(C1=C(C=CC=C1)Cl)=O)C | C22H20BrClN2O4S
reactant | ammonia | N | H3N
solvent | ethyl acetate | 36 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-Aminopropionylamino)-3-(2-chlorobenzoyl)-6-(3-butynyloxycarbonyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine | 0.36 g | NC(C(=O)NC1=C(C2=C(CN(CC2)C(=O)OCCC#C)S1)C(C1=C(C=CC=C1)Cl)=O)C | C22H22ClN3O4S
